US07915300B2
Triphenyl phosphine polymer bound (8.96 mmol) was suspended in anhydrous dichloromethane (20 ml) then diisopropyl azodicarboxylate (7.76 mmol) was added and the mixture was stirred for 15 minutes at room temperature. Then ethyl 5-hydroxybenzofuran carboxylate (5.97 mmol) was added over 5 minutes followed by the addition of 4-N-boc-3-morpholinecarboxylic acid (5.97 mmol) over 5 minutes too. The mixture was stirred at room temperature over night. The solvent was evaporated under vacuo and the residue purified by flash chromatography to obtain ethyl 5-(4-Boc-morpholin-2-ylmethoxy)-benzofuran-2-carboxylate: m/z=406 in MS ES+, as clear oil.

reactant | Triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 7.76 mmol | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | ethyl 5-hydroxybenzofuran carboxylate | 5.97 mmol | OC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H10O4
reactant | 4-N-boc-3-morpholinecarboxylic acid | 5.97 mmol | C(=O)(OC(C)(C)C)N1C(COCC1)C(=O)O | C10H17NO5
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 5-(4-Boc-morpholin-2-ylmethoxy)-benzofuran-2-carboxylate | C(=O)(OC(C)(C)C)N1CC(OCC1)COC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C21H27NO7
